US04618363
A mixture of 4.58 g of 2-(2-propanon-1-yloxy)phenylsulfonamide, 2 ml of ethylene glycol, 0.02 g of p-toluenesulfonic acid and 30 ml of toluene is heated for 7 hours to reflux while simultaneously separating the water of reaction. The cooled solution is taken up in 80 ml of ethyl acetate and the organic phase is washed with saturated sodium bicarbonate solution and water, dried and concentrated, affording 5 g of 2-(2-methyl-1,3-dioxolan-2-yl-methoxy)phenylsulfonamide in the form of a yellow viscous oil which can be further used without purification.

reactant | 2-(2-propanon-1-yloxy)phenylsulfonamide | 4.58 g | C(C(C)=O)OC1=C(C=CC=C1)S(=O)(=O)N | C9H11NO4S
reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-methyl-1,3-dioxolan-2-yl-methoxy)phenylsulfonamide | 5 g | CC1(OCCO1)COC1=C(C=CC=C1)S(=O)(=O)N | C11H15NO5S
